US04125732
Methyl(2-chloro-4-tert.-butylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate
A mixture of 4.25 g of 4-tert.-butyl-2-chlorophenol, 30 ml of tetrahydrofuran and 0.88 g of sodium hydride (60% dispersion in oil) is stirred at room temperature for 1 hour. To the mixture is added 3.48 g of potassium iodide and then a solution of 8.28 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate in 30 ml of tetrahydrofuran is added dropwise. After stirring and heating in an oil bath at 60° C. for 18 hours, the mixture is poured into ice-water containing 3 ml of acetic acid. The mixture is extracted with ethyl acetate and the combined extracts washed with sodium bicarbonate solution, 10% sodium bisulfite and saturated sodium chloride solution. The dried (MgSO4) extract is concentrated under reduced pressure to give an amber gum. The gum is dissolved in dichloromethane and the solution passed through a column of silica gel with dichloromethane as eluent. From the main cuts there is obtained 10 g of product as a viscous oil.

reactant | 4-tert.-butyl-2-chlorophenol | 4.25 g | C(C)(C)(C)C1=CC(=C(C=C1)O)Cl | C10H13ClO
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | potassium iodide | 3.48 g | [I-].[K+]
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 8.28 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl(2-chloro-4-tert.-butylphenoxy){p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 10 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=C(C=C(C=C1)C(C)(C)C)Cl)=O | C28H30Cl2O5
